US04464300
A solution of 155 mg of 8-amino-6-(2-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1]benzazepine in 1 ml of 2N methanesulphonic acid is cooled to 0° and treated with a solution of 44 mg of sodium nitrite in 0.2 ml of water. The mixture is stirred at 5° for 5 minutes and then added to a solution of 206 mg of copper (I) bromide in 2.4 ml of 48% hydrobromic acid. The mixture is stirred at room temperature for a further 10 minutes, whereupon it is neutralized with sodium hydrogen carbonate solution and extracted with chloroform. The chloroform extracts are dried and then evaporated. The residue is dissolved in chloroform and chromatographed on 5 g of silica gel. Impurities are eluted with chloroform and the desired product is eluted with chloroform/ethanol (19:1). After crystallization from ethyl acetate/ether, there is obtained 8-bromo-6-(2-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1] benzazepine of melting point 250°-252°.

reactant | 8-amino-6-(2-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1]benzazepine | 155 mg | NC=1C=CC2=C(C(=CCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C18H15ClN4
reactant | sodium nitrite | 44 mg | N(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hydrobromic acid | 2.4 ml | Br | BrH
solvent | methanesulphonic acid | 2N, 1 ml | CS(=O)(=O)O | CH4O3S
solvent | water | 0.2 ml | O | H2O
catalyst | copper (I) bromide | 206 mg | [Cu]Br
product | 8-bromo-6-(2-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1] benzazepine | BrC=1C=CC2=C(C(=CCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C18H13BrClN3
